US06531491B1
3-Methoxy-4-(methoxymethoxy)benzeneboronic acid was prepared as follows: In a 100 mL flask a mixture of 50% KOH in water (20 g KOH, 7 equiv, 20 g ice) was prepared under argon. To this rapidly stirring mixture at 0° C. (maintained with an ice bath) was added dichloromethane (50 mL) followed by 4-bromo-2-methoxyphenol (10.1g, 50 mmol, 1.00 equiv), methoxymethylchloride (MOMCl) (4.00 mL, 42.5 mmol, 1.05 equiv) and tetrabutylammonium bromide (322 mg, 1 mmol, 0.02 equiv). The bath was removed and the mixture was slowly allowed to warm to 23° C. with rapid stirring for 2 h. The mixture is transferred to a separatory funnel and diluted with dichloromethane (350 mL) and water (300 mL) which are used to aid the transfer. The organic material (now the bottom layer) are separated, dried over sodium sulfate, decanted and concentrated under reduced pressure to give 4-bromo-2-methoxy-1-(methoxymethoxy)benzene as a yellow liquid which is pure by 1H NMR (11.9 g, 97%): 1H NMR (CDCl3) δ 7.0 (s, 3H), 5.13 (s, 2H), 3.84 (s, 3H), 3.47 (s, 3H). MS (EI) [m+H]/z Calc'd 235, found 235. In a 50 mL round-bottom flask, 4-bromo-2-methoxy-1-(methoxymethoxy)benzene (4.80 g, 19.4 mmol, 1.00 equiv) was taken up in THF (35 mL) and was cooled to −78° C. (20 min for this volume). To this was added n-BuLi (12.75 mL, 1.6 M in hexane, 20.4 mmol, 1.05 equiv) and the mixture was allowed to stir at −78° C. for 40 min. This was then added via cannula to a second flask containing B(OMe)3 (22 mL, 194 mmol, 10 equiv) in THF (50 mL) at −78° C. After 20 min, the cold bath was removed. After 15 min of warming (˜0° C., ice on the side of the flask begins to melt) water (50 mL) was added to the reaction mixture which was stirred for 45 min. The mixture was concentrated under reduced pressure to remove most THF and was then partitioned between ethyl acetate (300 mL) and water (150 mL) which was made acidic by addition of a small amount of 20% citric acid (˜10 mL). The organic material was dried over sodium sulfate and concentrated under reduced pressure to give a solid. Trituration with ethyl acetate (10 mL) and hexane (5 mL) followed by filtering gave 3-methoxy-4-(methoxymethoxy)benzene-boronic acid as a white solid (3.15 g, 77%): Rf sm 0.59, p 0.18 (ethyl acetate-hexane 1:1); 1H NMR (CDCl3) δ 7.85 (d, 1H, J=8 Hz), 7.72 (s, 1H), 7.22 (d, 1H, J=8 Hz), 5.30 (s, 2H), 4.00 (s, 3H), 3.55 (s, 3H).

reactant | 4-bromo-2-methoxy-1-(methoxymethoxy)benzene | 19.4 mmol, 4.80 g, 1.00 equiv | BrC1=CC(=C(C=C1)OCOC)OC | C9H11BrO3
reactant | n-BuLi | 20.4 mmol, 1.6 M, 12.75 mL, 1.05 equiv | [Li]CCCC
reactant | B(OMe)3 | 194 mmol, 22 mL, 10 equiv | B(OC)(OC)OC | C3H9BO3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 3-methoxy-4-(methoxymethoxy)benzene-boronic acid | 3.15 g, 77% | COC=1C=C(C=CC1OCOC)B(O)O | C9H13BO5
